US04110536
5-[(Indol-3-yl)methyl]-3-(3-morpholinopropyl)hydantoin
5-[(Indol-3-yl)methyl]hydantoin (5 g; 0.022 mole) was added to NaOC2H5 (0.022 mole) in 300 ml of anhydrous C2H5OH. The first mixture was heated to reflux, and 1-(3-chloropropyl)-morpholine (3.5 g, 0.022 mole) was added. The mixture was heated for 6 hours and then diluted with H2O. The solid was collected and recrystallized from 2-propanol-petroleum ether, yield 3 g, mp 158°-60°.

reactant | 5-[(Indol-3-yl)methyl]hydantoin | 0.022 mole, 5 g | N1C=C(C2=CC=CC=C12)CC1C(NC(N1)=O)=O | C12H11N3O2
reactant | NaOC2H5 | 0.022 mole | CC[O-].[Na+]
solvent | C2H5OH | 300 ml | C(C)O | C2H6O
solvent | H2O | O | H2O
product | 5-[(Indol-3-yl)methyl]-3-(3-morpholinopropyl)hydantoin | N1C=C(C2=CC=CC=C12)CC1C(N(C(N1)=O)CCCN1CCOCC1)=O | C19H24N4O3
